US05135932
6-[4-[2-[3-(4-(2-n-Butyloxyethoxy-methyl)phenoxy)-2-hydroxypropylamino]ethoxy]phenyl]-4,5-dihydro-3-(2H)-pyridazinone
Prepared analogously to Example 1 from 1-[4-(2-n-butyloxyethoxymethyl)phenoxy]-2,3-epoxypropane and 6-[4-(2-aminoethoxy)phenyl]-4,5-dihydro-3-(2H)-pyridazinone.

reactant | 1-[4-(2-n-butyloxyethoxymethyl)phenoxy]-2,3-epoxypropane | C(CCC)OCCOCC1=CC=C(OCC2CO2)C=C1 | C16H24O4
reactant | 6-[4-(2-aminoethoxy)phenyl]-4,5-dihydro-3-(2H)-pyridazinone | NCCOC1=CC=C(C=C1)C=1CCC(NN1)=O | C12H15N3O2
product | 6-[4-[2-[3-(4-(2-n-Butyloxyethoxy-methyl)phenoxy)-2-hydroxypropylamino]ethoxy]phenyl]-4,5-dihydro-3-(2H)-pyridazinone | C(CCC)OCCOCC1=CC=C(OCC(CNCCOC2=CC=C(C=C2)C=2CCC(NN2)=O)O)C=C1 | C28H39N3O6
